US09193693B2
Step 1. Methyl 3-(sec-butylamino)-2-phenylquinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), butan-2-amine (193 mg, 2.64 mmol, 6.00 equiv), potassium carbonate (181.6 mg, 1.32 mmol, 3.00 equiv), toluene (3 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting solution was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). This resulted in 109 mg (crude) of methyl 3-(sec-butylamino)-2-phenylquinoxaline-6-carboxylate as yellow oil.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | butan-2-amine | 2.64 mmol, 193 mg, 6.00 equiv | CC(CC)N | C4H11N
reactant | potassium carbonate | 1.32 mmol, 181.6 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-(sec-butylamino)-2-phenylquinoxaline-6-carboxylate | C(C)(CC)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C20H21N3O2
